US04591600
1c. Synthesis of 3,4-dibenzyloxybenzoic acid anhydride
The mixture consisting of 1.5 liter of anhydrous ether, 290 cc of pyridine, 100.2 g of 3,4-dibenzyloxybenzoic acid and 105.7 g of 3,4-dibenzyloxybenzoic acid chloride is stirred for 24 hours at ambient temperature in a round-bottom flask provided with a drying tube. The mixture is then poured in 8 liters of ice water. After 45 min stirring the precipitate is filtered, washed with one liter of 0.1N iced hydrochloric acid, one liter of iced 0.1N Na2CO3, then one liter of ice water. The solid is solubilized in CHCl3 ; it is decanted, dried and evaporated and the anhydride is recrystallized in ethyl acetate. Yield 88%.

reactant | ether | 1.5 liter | CCOCC | C4H10O
reactant | 3,4-dibenzyloxybenzoic acid | 100.2 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=CC1OCC1=CC=CC=C1 | C21H18O4
reactant | 3,4-dibenzyloxybenzoic acid chloride | 105.7 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)Cl)C=CC1OCC1=CC=CC=C1 | C21H17ClO3
solvent | pyridine | 290 cc | N1=CC=CC=C1 | C5H5N
product | 3,4-dibenzyloxybenzoic acid anhydride | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC(C2=CC(=C(C=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)=O)C=CC1OCC1=CC=CC=C1 | C42H34O7
